US08748660B2
To a stirred solution of (S)-benzyl glycidyl ether (S)-2 (4 g, 24.3 mmol) in methanol (40 mL) was added slowly a powdered KOH (4 g; 70 mmol) at 10° C. and the reaction mixture was stirred at 30° C. temperature for 8 h, after which the solvent was evaporated under reduced pressure. The residue was dissolved in ethylacetate (50 mL), washed with water, dried over Na2SO4, and evaporated under reduced pressure. The crude product was purified by column chromatography (silica gel, petroleum ether/acetone, 90:10) to afford (S)-1-(benzyloxy)-3-methoxypropan-2-ol (S)-3 as a colorless oil (4.6 g, 98%).

reactant | (S)-benzyl glycidyl ether | C([C@@H]1CO1)OCC1=CC=CC=C1 | C10H12O2
reactant | KOH | 70 mmol, 4 g | [OH-].[K+]
reactant | methanol | 40 mL | CO | CH4O
product | (S)-1-(benzyloxy)-3-methoxypropan-2-ol | 4.6 g, 98% | C(C1=CC=CC=C1)OC[C@H](COC)O | C11H16O3
